US08865848B2
4-Bromo-6-(cyclohexylmethyl)-1,2,3,5-tetrahydro-s-indacene
To a solution of 39.5 g (0.114 mol) of 4-bromo-2-(cyclohexylmethyl)-3,5,6,7-tetrahydro-s-indacen-1(2H)-one in 170 ml of THF 15.2 g (0.398 mol) of NaBH4 was added. Further on, 340 ml of methanol was added dropwise by vigorous stirring for 2 h. The resulting mixture was stirred for 12 h at room temperature, evaporated to a volume of ca. 300 ml, and then 100 ml of 3.0 M HCl was added. The product was extracted with 3×200 ml of dichloromethane. The organic extract was dried over Na2SO4 and then evaporated to dryness. A solution of the residue and 1.4 g of TsOH in 800 ml of toluene was refluxed for 30 min with Dean-Stark head. The obtained solution was passed through short layer (50 mm) of silica gel 60 (40-63 um), the filtrate was evaporated to dryness. This procedure gave 34.7 g (93%) of the title product which was further used without an additional purification.

reactant | 4-bromo-2-(cyclohexylmethyl)-3,5,6,7-tetrahydro-s-indacen-1(2H)-one | 0.114 mol, 39.5 g | BrC1=C2CC(C(C2=CC=2CCCC12)=O)CC1CCCCC1 | C19H23BrO
reactant | THF | 0.398 mol, 170 ml, 15.2 g | C1CCOC1 | C4H8O
reactant | NaBH4 | [BH4-].[Na+]
solvent | methanol | 340 ml | CO | CH4O
product | 4-Bromo-6-(cyclohexylmethyl)-1,2,3,5-tetrahydro-s-indacene | 34.7 g, 93% | BrC1=C2CCCC2=CC=2C=C(CC12)CC1CCCCC1 | C19H23Br
